US05990309
A solution of 19.3 g (0.08 mol) of 2-chloro-4,5-difluoronitrobenzene in 100 g of toluene are introduced into a 200 ml three-necked flask fitted with dropping funnel, precision-ground glass stirrer and reflux condenser. 18.1 g (0.21 mol) of piperazine are added dropwise to this solution at room temperature and with stirring over the course of one hour. The mixture is then stirred at room temperature for a further 2 hours. The reaction solution formed during the reaction is washed three times with 20 ml of water in each case and dried. The solvent is removed to give 18.5 g (0.071 mmol) of 2-chloro-5-fluoro-4-piperazinonitrobenzene. This corresponds to a yield of 95%, based on 2-chloro-4,5-difluoronitrobenzene used.

reactant | 2-chloro-4,5-difluoronitrobenzene | 0.08 mol, 19.3 g | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
reactant | piperazine | 0.21 mol, 18.1 g | N1CCNCC1 | C4H10N2
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-fluoro-4-piperazinonitrobenzene | 0.071 mmol, 18.5 g, yield of 95% | ClC1=C(C=C(C(=C1)N1CCNCC1)F)[N+](=O)[O-] | C10H11ClFN3O2
